US05430022
Phenylacetyl chloride (5.7 ml) was added dropwise to a mixture of TsOH.H-L-Leu-OBzl (14.15 g) and TEA (12 ml) in dichloromethane (300 ml) under ice-bath cooling. After being stirred for 10 minutes at the same temperature, the mixture was concentrated in vacuo, and the residue was dissolved in ethyl acetate (300 ml). The solution was washed with 1N HCl (100 ml), water (100 ml), 1M aqueous sodium bicarbonate (100 ml), and brine (100 ml×2), dried over magnesium sulfate and evaporated to give N-phenylacetyl-L-Leu-OBzl (14 g). This product was used in a next step without further purification.

reactant | Phenylacetyl chloride | 5.7 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | H-L-Leu-OBzl | 14.15 g | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-phenylacetyl-L-Leu-OBzl | 14 g | N([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C21H25NO3
